US07935707B2
B) 4-((S)-2-Benzoyloxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
3.35 g (11.8 mmol) of 4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester was dissolved in 55 ml of THF at RT and treated with 0.57 g (13.0 mmol) of sodium hydride (55% in mineral oil). 1.68 ml=2.03 g (14.1 mmol) of benzoyl chloride was added drop by drop and stirring continued for 2 hours. The reaction mixture was then poured into crashed ice and extracted three times with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 95:5) to give 2.80 g (61%) of the title compound as yellow oil. MS: 389.3 (MH+).

reactant | 4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 11.8 mmol, 3.35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@@H](CCC1)CO | C15H28N2O3
reactant | sodium hydride | 13.0 mmol, 0.57 g | [H-].[Na+]
reactant | benzoyl chloride | 14.1 mmol, 2.03 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 55 ml | C1CCOC1 | C4H8O
product | 4-((S)-2-Benzoyloxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.80 g, 61% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@@H](CCC1)COC(C1=CC=CC=C1)=O | C22H32N2O4
